US08487108B2
To a solution of oxalyl dichloride (49.5 g, 0.39 mol) in dry CH2Cl2 (480 mL) was added dropwise a solution of dry DMSO (60.8 g, 0.78 mol) in dry CH2Cl2 (200 mL) at −65° C. for about 0.5-1 hr. Then a solution of (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-hydroxycyclohexyl)propanoate (59.5 g, 0.197 mol) in dry CH2Cl2 (600 mL) was added dropwise to the above mixture for about 0.5-1 hr. It was allowed to stir for 4-6 hr at −50-−30° C. Upon completion of the reaction, 158 mL of Et3N was added dropwise and the mixture was warmed to rt. The solution was added sat. NaHCO3, extracted by EtOAc, washed with H2O, brine, dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatograph to give (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-oxocyclohexyl)propanoate (39.5 g, 67%). 1H NMR (CDCl3, 400 MHz) δ 5.00 (d, J=8.0H, 1H), 4.39 (m, 1H), 3.74 (s, 3H), 2.40-1.30 (m, 11H), 1.44 (s, 9H). MS ESI +ve m/z 301 (M+1).

reactant | oxalyl dichloride | 0.39 mol, 49.5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.78 mol, 60.8 g | CS(=O)C | C2H6OS
reactant | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-hydroxycyclohexyl)propanoate | 0.197 mol, 59.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CCC(CC1)O | C15H27NO5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 480 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 158 mL | CCN(CC)CC | C6H15N
product | (S)-methyl 2-(tert-butoxycarbonylamino)-3-(4-oxocyclohexyl)propanoate | 39.5 g, 67% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1CCC(CC1)=O | C15H25NO5
